US04069257
The reaction is carried out at temperatures between 20° and 130° C. The reaction time is, for example, 3 hours at 30° C and a few minutes at 100° C. Advantageously, the mesityl oxide and catalyst are initially introduced and formaldehyde is metered in. The 2-methyl-3-hydroxymethyl-pent-1-en-4-one can be isolated from the reaction mixture by, for example, distillation, advantageously after neutralising the basic catalyst.

reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
reactant | formaldehyde | C=O | CH2O
product | 2-methyl-3-hydroxymethyl-pent-1-en-4-one | CC(=C)C(C(C)=O)CO | C7H12O2
